US07795267B2
Phenyl tetrahydro-1,1-dimethyl-3-oxo-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxylate
Hexahydro-1,1-dimethyl-3H-oxazolo[3,4-a]pyrazin-3-one (0.10 g, 0.59 mmol) was dissolved in tetrahydrofuran (10 mL). Triethylamine (0.17 mL, 1.2 mmol) and phenyl chlorocarbonate (0.11 mL, 0.88 mmol) were added, and the mixture was stirred at room temperature for 2 hours. To the reaction solution was added water, and the mixture was extracted with ethyl acetate. The extract was washed with an aqueous sodium hydrogen carbonate solution, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=3:1 to 1:2). After purification, the crystals, which were precipitated while concentrating under reduced pressure, were collected by filtration to obtain the title compound (0.14 g, yield 80%).

reactant | Hexahydro-1,1-dimethyl-3H-oxazolo[3,4-a]pyrazin-3-one | 0.59 mmol, 0.10 g | CC1(OC(N2C1CNCC2)=O)C | C8H14N2O2
reactant | Triethylamine | 1.2 mmol, 0.17 mL | C(C)N(CC)CC | C6H15N
reactant | phenyl chlorocarbonate | 0.88 mmol, 0.11 mL | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | Phenyl tetrahydro-1,1-dimethyl-3-oxo-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxylate | 0.14 g, yield 80% | CC1(OC(N2C1CN(CC2)C(=O)OC2=CC=CC=C2)=O)C | C15H18N2O4
